US08138187B2
(±)-4-[2-(4-Dimethylamino-4-phenylcyclohex-1-enyl)-1H-indol-3-yl]butan-1-ol (600 mg, 1.54 mmol) was dissolved in HBr/glacial acetic acid (33% HBr, 10 ml). Sn powder (1.81 g, 15.4 mmol) was then added to the mixture in portions at RT in the course of 2 h. When the addition had ended, the reaction mixture was stirred at RT for a further 16 h. For working up, the mixture was diluted with EtOH (10 ml) and concentrated to dryness on a rotary evaporator. The residue which remained was rendered basic by addition of 5 N NaOH (40 ml). The aqueous mixture obtained was extracted with methylene chloride (3×30 ml). The combined organic phases were dried over Na2SO4 and then concentrated. It was possible for the crude product obtained to be purified by column chromatography [silica gel 60 (50 g); MeOH (500 ml)]. 4-[2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl]butan-1-ol (less polar diastereomer) was obtained in a yield of 173 mg (29%) as a white solid.

reactant | (±)-4-[2-(4-Dimethylamino-4-phenylcyclohex-1-enyl)-1H-indol-3-yl]butan-1-ol | 1.54 mmol, 600 mg | CN(C1(CC=C(CC1)C=1NC2=CC=CC=C2C1CCCCO)C1=CC=CC=C1)C | C26H32N2O
solvent | HBr | 10 ml | Br | BrH
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-[2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl]butan-1-ol | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCCO)C1=CC=CC=C1)C | C26H34N2O
